US08420694B2
4-[(2S,3S)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile
To a solution of 4-[((2S,3S)-3-(tert-butyldimethylsilyloxy)-2-ethyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile (7.76 g) in tetrahydrofuran (60 mL)-ethanol (30 mL) was added 6 mol/L hydrochloric acid (60 mL), and the mixture was stirred at room temperature for 18 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→1/4), and the obtained solid was recrystallized from ethyl acetate/hexane to give the title compound as a colorless solid (yield: 2.36 g, 42%).

reactant | ((2S,3S)-3-(tert-butyldimethylsilyloxy)-2-ethyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | 7.76 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](N(C(C1)=O)C=1C(=C(C#N)C=CC1)C(F)(F)F)CC | C20H27F3N2O2Si
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 6 mol/L, 60 mL | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 4-[(2S,3S)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | yield: 2.36 g, 42% | C(C)[C@@H]1N(C(C[C@@H]1O)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C14H13F3N2O2
